US04176184
7,7-Dimethyl-2-phenyl-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride by method B
2.6 gm of a 55% suspension of sodium hydride in oil were added in portions to a mixture of 5.1 gm of 7,7-dimethyl-2-phenyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride and 50 ml of dimethyl sulfoxide. After stirring the mixture at room temperature for one hour, 4.8 gm of 3-diethylamino propyl bromide hdyrobromide were added, and the mixture was heated at 50° C. for 3 hours. The reaction mixture was admixed with water and extracted several times with chloroform. The chloroform phases were evaporated and the residue was purified on a silicagel column. The dihydrochloride was precipitated from acetone with ethereal hydrochloric acid and recrystallized from methanol/acetone.

reactant | sodium hydride | [H-].[Na+]
reactant | 7,7-dimethyl-2-phenyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride | 5.1 gm | Cl.CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=CC=C3)C
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | 3-diethylamino propyl bromide | 4.8 gm | C(C)N(CCCBr)CC | C7H16BrN
solvent | water | O | H2O
product | 7,7-Dimethyl-2-phenyl-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCCN(CC)CC)=O)=NC(=N3)C3=CC=CC=C3)C | InChI=1S/C25H30N4O2.2ClH/c1-5-29(6-2)14-10-13-17-19-18(15-26-25(3,4)23(19)31)20-21(22(17)30)28-24(27-20)16-11-8-7-9-12-16;;/h7-9,11-12,15,17,19H,5-6,10,13-14H2,1-4H3;2*1H
